US05703235
N-{4-[4-(2,3-Dichlorophenyl)-1-piperazinyl]butyl}-2-anthracenecarboxamide
A mixture of 2-anthracenecarboxylic acid (100 mg, 0.45 mmol) and 1,1'-carbonyldiimidazole (82 mg, 0.5 mmol) in 10 mL of anhydrous tetrahydrofuran is stirred for 8 hours. A solution of 4-[4-(2,3-dichlorophenyl)-1-piperazinyl]-1-aminobutane (150 mg, 0.5 mmol) in 1 mL of tetrahydrofuran is added and the resulting mixture is stirred for 30 minutes. The reaction mixture is partitioned between ethyl acetate and water. The organic layer is washed with aqueous Na2CO3, dried (Na2SO4) and concentrated in vacuo to give the title compound (183 mg, 80%). The hydrochloride salt is prepared by treating the free base with ethyl acetate-HCl. The hydrochloride salt of the title compound has a melting point of 245°-247° C.

reactant | 2-anthracenecarboxylic acid | 0.45 mmol, 100 mg | C1=C(C=CC2=CC3=CC=CC=C3C=C12)C(=O)O | C15H10O2
reactant | 1,1'-carbonyldiimidazole | 0.5 mmol, 82 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-[4-(2,3-dichlorophenyl)-1-piperazinyl]-1-aminobutane | 0.5 mmol, 150 mg | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCN | C14H21Cl2N3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-{4-[4-(2,3-Dichlorophenyl)-1-piperazinyl]butyl}-2-anthracenecarboxamide | 183 mg, 80% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCNC(=O)C1=CC2=CC3=CC=CC=C3C=C2C=C1 | C29H29Cl2N3O
